US04863920
12.7 g (37 mmol) of 7-chloro-4,5-dihydro-5-methyl-3-[(trimethylsilyl)ethynyl]-6H-imidazo[1,5-a][1,4]benzodiazepine--one was dissolved in 40 ml of methanol and treated with 40 ml of 1N potassium hydroxide solution. After stirring for 1 hour the methanol was distilled off and the aqueous suspension was cooled and suction filtered. After drying there was obtained 7-chloro-3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 194°-195°.

reactant | 7-chloro-4,5-dihydro-5-methyl-3-[(trimethylsilyl)ethynyl]-6H-imidazo[1,5-a][1,4]benzodiazepine--one | 37 mmol, 12.7 g | ClC1=CC=CC2=C1CN(CC=1N2C(NC1C#C[Si](C)(C)C)=O)C | C17H20ClN3OSi
reactant | potassium hydroxide | 1N, 40 ml | [OH-].[K+]
solvent | methanol | 40 ml | CO | CH4O
product | 7-chloro-3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#C)C)=O | C14H10ClN3O
